*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :2012M(0805)/C0G(-55to125[deg])/3.30e-05[uF]/630[V]
* Murata P/N :GCM21A5C2J330FX01
* Property : C = 3.30e-05[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 100[MHz]-3[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GCM21A5C2J330FX01 Port1 Port2
C01 Port1 N01 3.30e-11
R01 Port1 N01 1.00e+11
L02 N01 N02 3.98e-10
R03 N02 N03 2.64e-01
L04 N03 N04 7.48e-12
R04 N03 N04 1.34e-01
C05 N04 N05 4.91e-10
L05 N04 N05 8.98e-12
R05 N04 N05 1.81e-01
C06 N05 N06 4.62e-10
L06 N05 N06 4.04e-12
R06 N05 N06 2.77e-01
C07 N06 N07 7.62e-11
L07 N06 N07 1.55e-11
R07 N06 N07 1.93e+00
C08 N07 Port2 2.83e-12
L08 N07 Port2 2.05e-10
R08 N07 Port2 6.28e+01
.ENDS GCM21A5C2J330FX01
